US07011838B2
First, 0.93 g of 3-bromobenzaldehyde and 0.33 g of malononitrile were dissolved in 5 ml of ethanol, to which 1.5 ml of water was added, followed by stirring at room temperature for 4 hours. Then, after cooling at −5° C., a suspension of 57 mg of sodium borohydride in 3 ml of ethanol was added dropwise, followed by stirring at −5° C. for 30 minutes. 10% hydrochloride acid was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.94 g of (3-bromobenzyl)malononitrile (the intermediate (28)).

reactant | 3-bromobenzaldehyde | 0.93 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | malononitrile | 0.33 g | C(CC#N)#N | C3H2N2
reactant | sodium borohydride | 57 mg | [BH4-].[Na+]
reactant | hydrochloride | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 1.5 ml | O | H2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | (3-bromobenzyl)malononitrile | 0.94 g, Yield: 83% | BrC=1C=C(CC(C#N)C#N)C=CC1 | C10H7BrN2
